US06437184B1
To a mixture of 0.37 g of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal and 10 ml of pyridine was added 0.20 g of O-(3,3-dichloro-2-propenyl)hydroxylamine hydrochloride. After stirring at room temperature for 24 hours, the reaction mixture was poured into diluted hydrochloric acid, and extracted twice with diethyl ether. The diethyl ether layers were combined, washed with water, dried over anhydrous magnesium sulfate, and concentrated to give a crude product. This crude product was subjected to silica gel chromatography, which afforded 0.23 g (yield, 48%) of 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal O-(3,3-dichloro-2-propenyl)oxime, nD25.2 1.5559.

reactant | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal | 0.37 g | ClC1=C(OCCCCC=O)C(=CC(=C1)OCC=C(Cl)Cl)Cl | C14H14Cl4O3
reactant | O-(3,3-dichloro-2-propenyl)hydroxylamine hydrochloride | 0.20 g | Cl.ClC(=CCON)Cl
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 5-(2,6-dichloro-4-(3,3-dichloro-2-propenyloxy)phenoxy)pentanal O-(3,3-dichloro-2-propenyl)oxime | 0.23 g, 48% | ClC(=CCON=CCCCCOC1=C(C=C(C=C1Cl)OCC=C(Cl)Cl)Cl)Cl | C17H17Cl6NO3
